.options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 100

* input coupling capacitor
Ci in2 base 1m

* bias circuit
R1 vcc base 80k
R2 base 0 20k

* gain stage
Q1 coll base emit BC547A
Rc vcc coll 1k
Re emit 0 100

* bypass capacitor
Cb emit 0 1m


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc 100

* output coupling capacitor
Co emit2 out 1u

* load
RL out 0 8
.op
.end

.control

* time analysis
tran 1e-5 1e-2
hardcopy vo1.ps vdb(coll)

* frequency analysis
ac dec 10 10 100MEG
hardcopy vo1f.ps vdb(coll)

*https://sourceforge.net/p/ngspice/discussion/133842/thread/2031ad61/


hardcopy vo2f.ps vdb(out)
echo vo2f_FIG

*input impedance in kohm

echo "*******************"
echo "* input impedance *"
echo "*******************"

let zincomp = v(in2)[40]/vin#branch[40]/(-1000)

let zin = real(zincomp)

print zincomp

echo "**************"
echo "* merit data *"
echo "**************"

meas ac gain MAX vdb(out)
echo "gain_TAB"
print gain
echo "gain_END"

*bandwidth
let gain3 = gain - 3.0

print gain3

meas ac f1 WHEN vdb(out) = gain3 RISE=1
meas ac f2 WHEN vdb(out) = gain3 FALL=1

let bandwidth = f2 - f1

echo "bandwidth_TAB"
print bandwidth
echo "bandwidth_END"

print f1 f2

let cost = 1000 + 1 + 0.1 + 80 + 20 + 1 + 0.1 + 0.1 + 0.008 + 2 * 0.1 //capacitors, resistors e transistors

let merit = gain * bandwidth / (cost * f1)

print merit

echo "zin_TAB"
print zin
echo "zin_END"

echo "gain_TAB"
print gain
echo "gain_END"

echo "merit_TAB"
print merit
echo "merit_END"

.endc 